US04268509
A solution of 7-[2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[1-{2-(N-t-butoxycarbonylamino)ethyl}-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.0 g) in 99% formic acid (20 ml) was stirred for 2.5 hours at ambient temperature. The mixture was evaporated to dryness and the residue was dissolved in an aqueous solution of sodium bicarbonate and adjusted to pH 3 with 10% hydrochloric acid. A resulting precipitate was filtered off and the filtrate was subjected to column chromatography on non ion adsorption resin (Diaion HP 20) (Trademark: prepared by Mitsubishi Chemical Industries). The column was washed with water and eluted with 50% aqueous methanol. The eluate was evaporated to remove methanol and then lyophilized to give 7-[2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[1-(2-aminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (250 mg). mp 200° to 205° C. (dec.)

reactant | 7-[2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[1-{2-(N-t-butoxycarbonylamino)ethyl}-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 2.0 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCNC(=O)OC(C)(C)C)C(=O)O)C1=O)C1=NSC(=N1)N | C21H27N11O7S3
solvent | formic acid | 20 ml | C(=O)O | CH2O2
product | 7-[2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[1-(2-aminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 250 mg | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCN)C(=O)O)C1=O)C1=NSC(=N1)N | C16H19N11O5S3
